US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 3-Phenylpropylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl]-L-proline hydrochloride (300 mg, 0.83 mmol) and 3-phenylpropylamine (0.36 mL, 2.5 mmol) provided, after treatment with HCl in Et2O, 120 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 3-phenylpropylamide as a powder.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 3-phenylpropylamide | COC=1C=C(C=C(C1OC)OC)C(CC(CCC1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | C25H32N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 3-Phenylpropylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC(CCC1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | InChI=1S/C25H32N2O5.ClH/c1-30-22-14-18(15-23(31-2)24(22)32-3)21(28)16-19(12-11-17-8-5-4-6-9-17)27-25(29)20-10-7-13-26-20;/h4-6,8-9,14-15,19-20,26H,7,10-13,16H2,1-3H3,(H,27,29);1H/t19?,20-;/m0./s1
